US04507498
To a solution of 2.1 g (0.0037 mol) of [4-acetyl-3-[3-(4-acetyl-6-bromo-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid methyl ester in 50 ml of methanol was added 50 ml (0.05 mol) of 1N sodium hydroxide. The mixture was stirred at 25° for 16 hours and acidified to pH 4. The gummy precipitate was dissolved in ethyl acetate and washed with sodium choloride solution. The gummy solid obtained on concentration of the ethyl acetate was purified by C18 reverse phase column chromatography, eluting with 60% to 75% of methanol in water to yield 1.0 g, melting point 129°-130° (48% yield) of [4-acetyl-3-[3-(4-acetyl-6-bromo-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid.

reactant | [4-acetyl-3-[3-(4-acetyl-6-bromo-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid methyl ester | 0.0037 mol, 2.1 g | COC(COC1=C(C(=C(C=C1)C(C)=O)OCCCOC1=C(C(=C(C=C1Br)C(C)=O)O)CCC)CCC)=O | C28H35BrO8
reactant | sodium hydroxide | 0.05 mol, 1N, 50 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-acetyl-3-[3-(4-acetyl-6-bromo-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid | 1.0 g, 48% yield | C(C)(=O)C1=C(C(=C(OCC(=O)O)C=C1)CCC)OCCCOC1=C(C(=C(C=C1Br)C(C)=O)O)CCC | C27H33BrO8
